US06005116
(a) 5-(4-Benzyloxyphenyl)-3-(2-(N-tert-butoxycarbonylamino)ethoxy)isoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-hydroxyphenyl)isoxazole (0.2 g) was dissolved in dimethylformamide (2 ml), and 55% sodium hydride (oil, 0.03 g) was added thereto at 5° C. under a nitrogen atmosphere, followed by stirring of the resulting mixture at the same temperature for 10 minutes. Then, benzyl bromide (0.08 ml) was added dropwise thereto and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=3/1) to obtain the title compound (0.14 g, 54%) as a colorless powder.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-hydroxyphenyl)isoxazole | 0.2 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=C(C=C1)O | C16H20N2O5
reactant | sodium hydride | 0.03 g | [H-].[Na+]
reactant | benzyl bromide | 0.08 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(4-Benzyloxyphenyl)-3-(2-(N-tert-butoxycarbonylamino)ethoxy)isoxazole | 0.14 g, 54% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NO1)OCCNC(=O)OC(C)(C)C | C23H26N2O5
